US09023847B2
187. 3-(5-Methyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide
Trimethyl aluminum (0.35 mL, 0.69 mmol, 2M in toluene) was added to a solution of 3-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester (50 mg, 0.17 mmol) and 3-chlorobenzylamine (0.11 mL, 0.87 mmol) in toluene (2 mL), and stirred overnight at 70° C. The reaction mixture was cooled to room temperature, diluted with H2O and EtOAC, and filtered through an Extrelut column. The column was washed with EtOAC and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 100% EtOAC in hexanes to provide the desire product (34 mg, 49% yield) as an off-white solid. LC-MS (M+H=398, obsd.=398).

reactant | Trimethyl aluminum | 0.69 mmol, 2M, 0.35 mL | C[Al](C)C
reactant | 3-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester | 0.17 mmol, 50 mg | COC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2C | C13H12N4O2S
reactant | 3-chlorobenzylamine | 0.87 mmol, 0.11 mL | ClC=1C=C(CN)C=CC1 | C7H8ClN
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | 3-(5-Methyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide | 34 mg, 49% yield | ClC=1C=C(CNC(=O)C=2SC=CC2NC=2C3=C(N=CN2)NC=C3C)C=CC1 | C19H16ClN5OS
